US09029549B2
S-(4-Fluorobenzyl) 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbothioate (I-27)
A solution of 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (III-4, 200 mg) is reacted analogously to Example I-227 with (4-fluorophenyl)methanethiol (78.0 mg). This gives, after chromatographic purification, S-(4-fluorobenzyl) 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbothioate (110 mg, 42%).

reactant | 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid | 200 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O)C(F)(F)F | C16H17F3N4O3S
reactant | (4-fluorophenyl)methanethiol | 78.0 mg | FC1=CC=C(C=C1)CS | C7H7FS
product | S-(4-Fluorobenzyl) 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbothioate | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(SCC1=CC=C(C=C1)F)=O)C(F)(F)F | C23H22F4N4O2S2
